US05563162
To a stirred solution of 3,4-dimethoxybenzyl alcohol (1.68 g) in 1,3-dimethyl-2-imidazolidinone (10 ml) was added sodium hydride (60% in oil, 400 mg) portionwise in an ice-water bath under a nitrogen atmosphere. The mixture was stirred for 30 minutes and then 4-chloro-8-hydroxy-2-methylquinoline (770 mg) was added thereto. The reaction mixture was stirred at 150° C. for 3 hours and cooled to ambient temperature followed by partition into ethyl acetate and water. The organic layer was washed with water twice, dried over magnesium sulfate and evaporated in vacuo. The residue was washed with diethyl ether to give a pale yellow powder (812 mg) of 8-hydroxy-4-(3,4-dimethoxybenzyloxy)-2-methylquinoline.

reactant | 3,4-dimethoxybenzyl alcohol | 1.68 g | COC=1C=C(CO)C=CC1OC | C9H12O3
reactant | sodium hydride | 400 mg | [H-].[Na+]
reactant | 4-chloro-8-hydroxy-2-methylquinoline | 770 mg | ClC1=CC(=NC2=C(C=CC=C12)O)C | C10H8ClNO
solvent | 1,3-dimethyl-2-imidazolidinone | 10 ml | CN1C(N(CC1)C)=O | C5H10N2O
product | 8-hydroxy-4-(3,4-dimethoxybenzyloxy)-2-methylquinoline | 812 mg | OC=1C=CC=C2C(=CC(=NC12)C)OCC1=CC(=C(C=C1)OC)OC | C19H19NO4
